data/mechanism_extracts/ChemSci/10.1039_D2SC05423J.json
{"doi": "10.1039_D2SC05423J", "journal": "ChemSci", "is_review": false, "rxn_class_summary": "Electrochemical multicomponent reaction for C-H tetrazolation of alkyl arenes and vicinal azidotetrazolation of alkenes using acetonitrile and TMSN3", "mechanism_family": ["radical_cation", "radical_polar_crossover", "direct_SET", "cation_initiated"], "electrochemical_role": "Anodic single-electron oxidation: for alkyl arenes, anode oxidizes the arene to a radical cation that loses a proton to form a benzyl radical, which is further oxidized to a benzyl cation; for alkenes, anode oxidizes azide (from TMSN3) to azido radical which adds to alkene, then anodic oxidation gives β-azido carbocation. Cathode reduces protons to H2.", "key_intermediates": [{"name": "ethylbenzene radical cation (phenyl radical cation intermediate)", "smiles": null, "role": "transient"}, {"name": "benzyl radical (A)", "smiles": "[CH](C)c1ccccc1", "role": "reactive"}, {"name": "benzyl carbocation (B)", "smiles": "[CH+](C)c1ccccc1", "role": "reactive"}, {"name": "Ritter-type nitrilium ion (C)", "smiles": "CC(c1ccccc1)[N+]#CC", "role": "reactive"}, {"name": "azido radical (N3•)", "smiles": "[N]=[N+]=[N-]", "role": "reactive"}, {"name": "β-azido carbon radical (I, from alkene)", "smiles": null, "role": "transient"}, {"name": "β-azido carbocation (II)", "smiles": null, "role": "reactive"}, {"name": "β-azido nitrilium ion (path a intermediate)", "smiles": null, "role": "transient"}, {"name": "diazide (III, from radical-radical coupling)", "smiles": null, "role": "off_pathway"}], "electron_flow": "For alkyl arenes: anode oxidizes the arene (SET) to a radical cation, deprotonation gives a benzyl radical, a second anodic SET forms the benzyl cation, MeCN traps it as a Ritter nitrilium ion, and azide closes the ring to give the tetrazole; protons are reduced to H2 at the Pt cathode. For alkenes: anodic oxidation of TMSN3-derived azide gives N3•, which adds to the alkene, the resulting C-radical is further oxidized to a β-azido cation, trapped by MeCN/azide to form the vicinal azidotetrazole.", "rate_determining_step": "Anodic single-electron oxidation of the alkyl arene (transition state bears positive charge build-up, ρ = -2.97)", "probe_reagents": [{"name": "(1-cyclopropyl-1-phenyl)ethylene (radical clock 54)", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Ring-opened azidotetrazole 55 obtained (21%, 7.5:1), confirming involvement of an azido radical that adds to the alkene"}, {"name": "p-substituted ethylbenzenes (Hammett series)", "smiles": null, "purpose": "other", "observation": "Hammett ρ = -2.97 (vs σp+), much more negative than typical HAT (ρ > -1), indicating positive charge build-up in TS, consistent with radical cation/SET mechanism rather than HAT"}, {"name": "selectivity probe 21' (two benzylic C-H of different BDE: 88 vs 83.3 kcal/mol)", "smiles": null, "purpose": "other", "observation": "Sites of similar BDE but different electronic properties were well distinguished, disproving HAT pathway"}, {"name": "benzyltrimethylsilane (56)", "smiles": "C[Si](C)(C)Cc1ccccc1", "purpose": "intermediate_trap", "observation": "Gave tetrazole 7 (34%) exclusively via C-Si cleavage of the radical cation, supporting radical cation (not HAT) mechanism"}, {"name": "omission of TMSN3 (control)", "smiles": null, "purpose": "intermediate_trap", "observation": "Ritter-type acetamide product 57 isolated in 27%, confirming benzyl carbocation/nitrilium intermediate"}, {"name": "cyclic voltammetry of substrates and TMSN3", "smiles": null, "purpose": "redox_probe", "observation": "Ep/2 (ethylbenzene) = 2.43 V; with HFIP drops to 2.01 V; TMSN3 Ep/2 = 0.92 V; styrene Ep/2 = 2.21 V — for alkene case TMSN3 is oxidized preferentially, generating N3•"}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "kinetic_order", "intermediate_trap_other", "isolation_of_intermediate", "other"], "evidence_strength": "strong", "notes": "Authors explicitly disfavor a HAT pathway (via electrogenerated azido radical abstracting benzylic C-H) based on Hammett ρ = -2.97, BDE-insensitive selectivity in 21', and selective C-Si cleavage of benzyl-TMS 56 — favoring instead stepwise ET/PT (radical cation → deprotonation → benzyl radical → second SET → cation). For the alkene azidotetrazolation, an alternative diazide pathway (III) via radical-radical coupling (path b) or polar TMSN3 trapping of cation (path c) is considered disfavored because excess MeCN outcompetes low-concentration TMSN3 at the anode. HFIP is crucial as a radical-cation-stabilizing co-solvent that lowers the substrate oxidation potential."}
